*$
*//-----------------------------------------------------------------------//
*//   Part      : HHXJ250ARA471MJA0G_7
*//   Date      : 2021/01/13
*//   Model     : RC-ladder 7 Element Model
*//-----------------------------------------------------------------------//

.SUBCKT HHXJ250ARA471MJA0G_20deg-C 1 2

C1 4 2 2.90e-04
C2 5 2 7.25e-05
C3 6 2 6.98e-05
R1 3 4 1.38e-02
R2 4 5 7.64e-02
R3 5 6 7.53e-01
L1 1 3 4.30e-09

.ENDS
*$
